US08492582B2
A 2.0 mol/L aqueous solution of sodium hydroxide (0.37 mL) was added to a 2-propanol (1.0 mL) suspension of the obtained methyl 2-(2-hydroxy-5-((1-methylpiperidin-4-yl)methoxy)benzamido)-4-phenylbenzoate (0.070 g), followed by stirring at 50° C. for 1 hour and 30 minutes. The reaction mixture was cooled to room temperature, and then water was added thereto. After adjusting the pH to 6.0 with 1 mol/L hydrochloric acid, the solid substance was collected by filtration. Ethyl acetate (2.0 mL) and a 4 mol/L hydrogen chloride dioxane solution (0.20 mL) were added to the obtained solid substance, followed by stirring at room temperature for 2 hours. The solid substance was collected from the reaction mixture by filtration to obtain 0.058 g of 2-(2-hydroxy-5-(1-methylpiperidin-4-ylmethoxy)benzamido)-4-phenylbenzoic acid hydrochloride as a light yellow solid.

reactant | sodium hydroxide | 0.37 mL | [OH-].[Na+]
reactant | 2-propanol | 1.0 mL | CC(C)O | C3H8O
reactant | methyl 2-(2-hydroxy-5-((1-methylpiperidin-4-yl)methoxy)benzamido)-4-phenylbenzoate | 0.070 g | OC1=C(C(=O)NC2=C(C(=O)OC)C=CC(=C2)C2=CC=CC=C2)C=C(C=C1)OCC1CCN(CC1)C | C28H30N2O5
reactant | hydrochloric acid | 1 mol/L | Cl | ClH
solvent | water | O | H2O
product | 2-(2-hydroxy-5-(1-methylpiperidin-4-ylmethoxy)benzamido)-4-phenylbenzoic acid hydrochloride | 0.058 g | Cl.OC1=C(C(=O)NC2=C(C(=O)O)C=CC(=C2)C2=CC=CC=C2)C=C(C=C1)OCC1CCN(CC1)C | InChI=1S/C27H28N2O5.ClH/c1-29-13-11-18(12-14-29)17-34-21-8-10-25(30)23(16-21)26(31)28-24-15-20(7-9-22(24)27(32)33)19-5-3-2-4-6-19;/h2-10,15-16,18,30H,11-14,17H2,1H3,(H,28,31)(H,32,33);1H
